### PR TITLE
Cherry-pick from #1125: tidy some proofs and speed-up their checking

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR aims to mitigate some performance issues related to the `linear` lemmas and clarify whether they are caused by the introduction of the new structures by #1125 or not. (The answer seems to be yes and no.)

##### Minimal TODO list

- ~[ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`~

- ~[ ] added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: mathcomp/character/mxrepresentation.v [hunk 1]
```diff
@@ -1381,11 +1380,11 @@ rewrite /rfix_mx; set C := \matrix_i _.
 apply: (iffP row_subP) => [cHW x Hx | cHW j].
   apply/row_matrixP=> j; apply/eqP; rewrite -subr_eq0 row_mul.
   move/sub_kermxP: {cHW}(cHW j); rewrite mul_rV_lin1 /=; move/(canRL mxvecK).
-  move/row_matrixP/(_ (enum_rank_in Hx x)); rewrite row_mul rowK !linear0.
+  move/row_matrixP/(_ (enum_rank_in Hx x)); rewrite row_mul rowK !raddf0.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:1383]: master w/o patch: 0.061 s
master w/ patch: 0.02 s
semi-modules w/o patch: diverging?
semi-modules w/ patch: 0.038 s

File: mathcomp/character/mxrepresentation.v [hunk 2]
```diff
@@ -1381,11 +1380,11 @@ rewrite /rfix_mx; set C := \matrix_i _.
...
   by rewrite enum_rankK_in // mul_vec_lin_row mulmxBr mulmx1 => ->.
 apply/sub_kermxP; rewrite mul_rV_lin1 /=; apply: (canLR vec_mxK).
 apply/row_matrixP=> i; rewrite row_mul rowK mul_vec_lin_row -row_mul.
-by rewrite mulmxBr mulmx1 cHW ?enum_valP // subrr !linear0.
+by rewrite mulmxBr mulmx1 cHW ?enum_valP // subrr !raddf0.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:1387]: master w/o patch: 0.048 s
master w/ patch: 0.019 s
semi-modules w/o patch: 0.17 s
semi-modules w/ patch: 0.018 s

File: mathcomp/character/mxrepresentation.v [hunk 3]
```diff
@@ -2356,7 +2355,7 @@ case/rowV0Pn=> u Uu; rewrite -mxrank_eq0 -lt0n row_leq_rank -sub1mx.
 case/submxP: Uu => v ->{u} /row_freeP[u' vK]; apply/row_subP=> i.
 rewrite rowE scalar_mxC -{}vK -2![_ *m _]mulmxA; move: {u' i}(u' *m _) => A.
 rewrite mulmx_sub {v}// [A]a_G linear_sum summx_sub //= => x Gx.
-by rewrite linearZ /= scalemx_sub // (mxmoduleP Umod).
+by rewrite -scalemxAr scalemx_sub // (mxmoduleP Umod).
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:2358]: master w/o patch: 0.014 s
master w/ patch: 0.013 s
semi-modules w/o patch: 0.097 s
semi-modules w/ patch: 0.012 s

File: mathcomp/character/mxrepresentation.v [hunk 4]
```diff
@@ -3974,7 +3972,7 @@ apply/rowP=> k /[1!mxE].
 have [x Gx def_k] := imsetP (enum_valP k).
 transitivity (@gring_proj F _ G x (vec_mx 0) 0 0); last first.
   by rewrite !linear0 !mxE.
-rewrite -{}v0 !linear_sum (bigD1 k) //= !linearZ /= rowK mxvecK def_k.
+rewrite -{}v0 !linear_sum (bigD1 k) //= 2!linearZ /= rowK mxvecK def_k.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:3975]: master w/o patch: 0.089 s
master w/ patch: 0.072 s
semi-modules w/o patch: 0.405 s
semi-modules w/ patch: 0.247 s

File: mathcomp/character/mxrepresentation.v [hunk 5]
```diff
@@ -4007,10 +4005,10 @@ rewrite !linear_sum {xG GxG}def_xG; apply: eq_big  => [y | xy] /=.
 case/imsetP=> y Gy ->{xy}; rewrite linearZ; congr (_ *: _).
 move/(canRL (repr_mxK aG Gy)): (centgmxP cGa y Gy); have Gy' := groupVr Gy.
 move/(congr1 (gring_proj x)); rewrite -mulmxA mulmx_suml !linear_sum.
-rewrite (bigD1 x Gx) big1 => [|z /andP[Gz]]; rewrite !linearZ /=; last first.
+rewrite (bigD1 x Gx) big1 => [|z /andP[Gz]]; rewrite linearZ /=; last first.
   by rewrite eq_sym gring_projE // => /negPf->; rewrite scaler0.
 rewrite gring_projE // eqxx scalemx1 (bigD1 (x ^ y)%g) ?groupJ //=.
-rewrite big1 => [|z /andP[Gz]]; rewrite -scalemxAl !linearZ /=.
+rewrite big1 => [|z /andP[Gz]]; rewrite -scalemxAl 2!linearZ /=.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:4011]: master w/o patch: 0.086 s
master w/ patch: 0.062 s
semi-modules w/o patch: 0.507 s
semi-modules w/ patch: 0.256 s

File: mathcomp/character/mxrepresentation.v [hunk 6]
```diff
@@ -4268,7 +4266,7 @@ case/mx_rsim_def=> f [f' _ hom_f] ne_iG_j RjA.
 transitivity (f *m in_submod _ (val_submod 1%:M *m A) *m f').
   have{RjA}: (A \in R_G)%MS by rewrite -Wedderburn_sum (sumsmx_sup j).
   case/envelop_mxP=> a ->{A}; rewrite !(linear_sum, mulmx_suml).
-  by apply: eq_bigr => x Gx; rewrite !linearZ /= -scalemxAl -hom_f ?gring_opG.
+  by apply: eq_bigr => x Gx; rewrite 4!linearZ /= -scalemxAl -hom_f ?gring_opG.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:4269]: master w/o patch: 0.133 s
master w/ patch: 0.093 s
semi-modules w/o patch: 0.459 s
semi-modules w/ patch: 0.302 s

File: mathcomp/character/mxrepresentation.v [hunk 7]
```diff
@@ -4340,7 +4338,7 @@ have <-: (gring_mx aG (val_submod (v *m (f *m gring_op rG A *m f')))) = 0.
   by rewrite (eqP opA0) !(mul0mx, linear0).
 have: (A \in R_G)%MS by rewrite -Wedderburn_sum (sumsmx_sup iG).
 case/envelop_mxP=> a ->; rewrite !(linear_sum, mulmx_suml) /=; apply/eqP.
-apply: eq_bigr=> x Gx; rewrite !linearZ -scalemxAl !linearZ /=.
+apply: eq_bigr=> x Gx; rewrite 3!linearZ -scalemxAl 3!linearZ /=.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:4341]: master w/o patch: 0.28 s
master w/ patch: 0.208 s
semi-modules w/o patch: 2.737 s
semi-modules w/ patch: 2.02 s

File: mathcomp/character/mxrepresentation.v [hunk 8]
```diff
@@ -4370,7 +4368,7 @@ rewrite -(mxrankMfree _ inj_f); symmetry; rewrite -(eqmxMfull _ inj_f).
 have /envelop_mxP[e ->{i}]: ('e_i \in R_G)%MS.
   by rewrite -Wedderburn_sum (sumsmx_sup i) ?Wedderburn_id_mem.
 congr (\rank _ != _); rewrite !(mulmx_suml, linear_sum); apply: eq_bigr => x Gx.
-by rewrite !linearZ -scalemxAl /= !gring_opG ?hom_f.
+by rewrite 3!linearZ -scalemxAl /= !gring_opG ?hom_f.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:4371]: master w/o patch: 0.066 s
master w/ patch: 0.044 s
semi-modules w/o patch: 0.201 s
semi-modules w/ patch: 0.111 s

File: mathcomp/character/mxrepresentation.v [hunk 9]
```diff
@@ -5337,7 +5335,7 @@ have ->: A ^+ k *m mxval x^-1 = mxval (groot ^+ k / x).
   by rewrite mxvalM rmorphXn /= mxval_groot.
 rewrite [mxval _]horner_rVpoly; move: {k u x}(val _) => u.
 rewrite (mulmx_sum_row u) !linear_sum summx_sub //= => k _.
-rewrite !linearZ scalemx_sub //= rowK mxvecK -rowE.
+rewrite 2!linearZ scalemx_sub //= rowK mxvecK -rowE.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:5338]: master w/o patch: 0.055 s
master w/ patch: 0.042 s
semi-modules w/o patch: 0.294 s
semi-modules w/ patch: 0.219 s

File: mathcomp/character/mxrepresentation.v [hunk 10]
```diff
@@ -5381,7 +5379,7 @@ Proof. by apply: (canLR in_genK); rewrite in_gen0. Qed.
 Lemma in_genN : {morph in_gen : W / - W}.
 Proof.
 move=> W; apply/matrixP=> i j; apply: val_inj.
-by rewrite !mxE !(mulNmx, linearN).
+by rewrite !mxE 4!(mulNmx, linearN).
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:5382]: master w/o patch: 0.088 s
master w/ patch: 0.056 s
semi-modules w/o patch: 32.174 s
semi-modules w/ patch: 15.652 s
semi-modules w/ patch + replace `linearN` with `raddfN`: 8.998 s

File: mathcomp/character/mxrepresentation.v [hunk 11]
```diff
@@ -5535,7 +5533,7 @@ apply/row_subP=> i0; rewrite -val_gen_row row_mul; move: {i0 u}(row _ u) => u.
 rewrite mulmx_sum_row val_gen_sum summx_sub // => i _.
 rewrite val_genZ [mxval _]horner_rVpoly [_ *m Ad]mulmx_sum_row.
 rewrite !linear_sum summx_sub // => k _.
-rewrite !linearZ scalemx_sub {u}//= rowK mxvecK val_gen_row.
+rewrite 2!linearZ scalemx_sub {u}//= rowK mxvecK val_gen_row.
```
Comment (pi8027) [inline mathcomp/character/mxrepresentation.v:5536]: master w/o patch: 0.071 s
master w/ patch: 0.047 s
semi-modules w/o patch: 0.351 s
semi-modules w/ patch: 0.086 s

**Review by pi8027 — COMMENTED** [review]
I'm comparing the times spent processing a line in the following four cases:
- the master branch without the change introduced in this PR,
- the master branch with the change introduced in this PR,
- the semi-modules branch (#1125) without the change introduced in this PR, and
- the semi-modules branch with the change introduced in this PR.

File: mathcomp/field/algnum.v [hunk 12]
```diff
@@ -420,7 +420,7 @@ have ext1 mu0 x : {mu1 | exists y, x = Sinj mu1 y
   have hom_f: kHom 1 (ASpace algK) f.
     apply/kHomP; split=> [_ _ /memK[y1 ->] /memK[y2 ->] |_ /vlineP[a ->]].
       by rewrite -rmorphM !Df !rmorphM.
-    by rewrite -(rmorph1 in01) -linearZ /= Df /= {1}linearZ /= rmorph1.
+    by rewrite -(rmorph_alg in01) Df /= !rmorph_alg.
```
Comment (pi8027) [inline mathcomp/field/algnum.v:423]: master w/o patch: 0.053 s
master w/ patch: 0.027 s
semi-modules w/o patch: 0.058 s
semi-modules w/ patch: 0.029 s

File: mathcomp/field/fieldext.v [hunk 13]
```diff
@@ -1093,7 +1093,7 @@ Qed.
 Fact mulfx_addl : left_distributive subfext_mul subfext_add.
 Proof.
 elim/quotW=> x; elim/quotW=> y; elim/quotW=> w.
-by rewrite !piE /subfx_mul_rep linearD /= mulrDl modpD linearD.
+by rewrite !piE /subfx_mul_rep raddfD /= mulrDl modpD raddfD.
```
Comment (pi8027) [inline mathcomp/field/fieldext.v:1096]: master w/o patch: 0.025 s
master w/ patch: 0.022 s
semi-modules w/o patch: 55.415 s
semi-modules w/ patch: 0.02 s

File: mathcomp/field/fieldext.v [hunk 14]
```diff
@@ -1137,15 +1137,15 @@ Canonical pi_subfext_inv_morph := PiMorph1 pi_subfext_inv.
 
 Fact subfx_fieldAxiom : forall x, x != 0 -> subfext_inv x * x = 1.
 Proof.
-elim/quotW=> x; apply: contraNeq; rewrite !piE /equiv_subfext /iotaFz !linear0.
+elim/quotW=> x; apply: contraNeq; rewrite !piE /equiv_subfext /iotaFz !raddf0.
```
Comment (pi8027) [inline mathcomp/field/fieldext.v:1140]: master w/o patch: 0.026 s
master w/ patch: 0.026 s
semi-modules w/o patch: 80.781 s
semi-modules w/ patch: 0.017 s

File: mathcomp/field/fieldext.v [hunk 15]
```diff
@@ -1137,15 +1137,15 @@ Canonical pi_subfext_inv_morph := PiMorph1 pi_subfext_inv.
...
 apply: contraR => nz_x; rewrite poly_rV_K ?size_poly1 // !poly_rV_modp_K.
 by rewrite iotaPz_modp rmorph1 rmorphM /= iotaPz_modp subfx_poly_invE mulVf.
 Qed.
 
 Fact subfx_inv0 : subfext_inv (0 : subFExtend) = (0 : subFExtend).
 Proof.
-apply/eqP; rewrite !piE /equiv_subfext /iotaFz /subfx_inv_rep !linear0.
-by rewrite /subfx_poly_inv rmorph0 eqxx mod0p !linear0.
+apply/eqP; rewrite !piE /equiv_subfext /iotaFz /subfx_inv_rep !raddf0.
+by rewrite /subfx_poly_inv rmorph0 eqxx mod0p !raddf0.
```
Comment (pi8027) [inline mathcomp/field/fieldext.v:1148]: master w/o patch: 0.026 s, 0.032 s
master w/ patch: 0.009 s, 0.008 s
semi-modules w/o patch: 16.429 s, 5.801 s
semi-modules w/ patch: 0.009 s, 0.028 s

File: mathcomp/field/galois.v [hunk 16]
```diff
@@ -567,11 +566,11 @@ have [f homLf fxz]: exists2 f : 'End(Lz), kHom 1 imL f & f (inLz x) = z.
     have [q2 Dq2]: exists q2, q1z = map_poly inLz q2.
       exists (\poly_(i < size q1z) (sval (sig_eqW (F0q1z i)))%:A).
       rewrite -{1}[q1z]coefK; apply/polyP=> i; rewrite coef_map !{1}coef_poly.
-      by case: sig_eqW => a; case: ifP; rewrite /= ?rmorph0 ?linearZ ?rmorph1.
+      by case: sig_eqW => a; case: ifP; rewrite /= ?rmorph0 ?rmorph_alg.
```
Comment (pi8027) [inline mathcomp/field/galois.v:569]: master w/o patch: 0.049 s
master w/ patch: 0.033 s
semi-modules w/o patch: 0.056 s
semi-modules w/ patch: 0.035 s

**Review by pi8027 — COMMENTED** [review]
More comparison:

**Comment by pi8027** [comment]
Let me try to draw a conclusion:
- `rewrite linearZ` is sometimes slow, both in successful and unsuccessful cases. It is noticeably slower in the `semi-modules` branch (which should be considered a bug).
- Specifying the number of repetitions in the `rewrite` tactic seems a good practice anyway.
- Replacing `linearD` and `linear0` with `raddfD` and `raddf0` rather seems a random change, although it sometimes gives a significant performance improvement in the `semi-modules` branch. (I saw some opposite cases in the master branch, which are not included in this PR.)

**Comment by pi8027** [comment]
CI green. Since this is just a small refactoring PR, and I need to make some more progress on #1125 by Wednesday, I'm merging this now.
